US04975461
A. 4-Benzyloxy-N(1,2,3,4-tetrahydro-6-methoxy-2-naphthalenyl)aniline
A solution of 977 mg (S.54 mmol, Aldrich) of 6-methoxy-2-tetralone, 1.30 g (5.54 mmol, Aldrich) of 4-benzyloxyaniline hydrochloride and 174 mg (2.77 mmol, Aldrich) of NaBH3CN in 30 ml of MeOH was stirred at 25° C. over 3A molecular sieves for 1.75 hour. The mixture was filtered, saturated NaHCO3 was added and this was extracted with EtOAc. The organic layer was dried (MgSO4) and concentrated in vacuo. Purification via flash chromatography (silica gel, 1:8 EtOAc/petroleum ether) afforded 1.36 g (69%) of title compound as a deep red oil.

reactant | 6-methoxy-2-tetralone | 54 mmol, 977 mg | COC=1C=C2CCC(CC2=CC1)=O | C11H12O2
reactant | 4-benzyloxyaniline hydrochloride | 5.54 mmol, 1.30 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | NaBH3CN | 2.77 mmol, 174 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 30 ml | CO | CH4O
product | 4-Benzyloxy-N(1,2,3,4-tetrahydro-6-methoxy-2-naphthalenyl)aniline | 1.36 g, 69% | C(C1=CC=CC=C1)OC1=CC=C(NC2CC3=CC=C(C=C3CC2)OC)C=C1 | C24H25NO2
